US04086362
A mixture of 250 mg. 9β,15-dihydroxy-15-methyl-12-prostenoic acid ethyl ester (as mixture of the two 15-epimers), 20 ml. 1,2-dimethoxyethane, 0.3 g. KOH and 5 ml. water is stirred for 12 hours at room temperature, diluted with 40 ml. diethyl ether and saturated with NaCl. The organic phase is separated, washed twice with 15 ml. amounts of H2O and dried over MgSO4. Solvent is removed to obtain, as oily residue, 9β,15-dihydroxy-15-methyl-12-prostenoic acid as mixture of the 15-epimers.

reactant | 9β,15-dihydroxy-15-methyl-12-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CCC(CCCCC)(C)O)O)=O | C23H42O4
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | KOH | [OH-].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 9β,15-dihydroxy-15-methyl-12-prostenoic acid | O[C@H]1[C@H](CCCCCCC(=O)O)C(CC1)=CCC(CCCCC)(C)O | C21H38O4
